US09315542B2
(2S,4S)-1-Iodo-4-((S)-3-methoxy-2-((S)-3-methoxy-2-(2-methylthiazole-5-carboxamido)propanamido)propanamido)-2-methyl-3-oxo-5-phenylpentan-2-yl 4-acetoxy-3,3-dimethylbutanoate
Prepared according to the procedures described above, by reacting 4-acetoxy-3,3-dimethylbutanoic anhydride with N—((S)-1-(((S)-1-(((2S,4S)-4-hydroxy-5-iodo-4-methyl-3-oxo-1-phenylpentan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)-2-methylthiazole-5-carboxamide. 1H NMR (300 MHz, CDCl3): δ 8.10 (s, 1H), 7.29-7.11 (m, 6H), 7.05 (d, J=6.6 Hz, 1H), 6.92 (d, J=7.8 Hz, 1H). 5.37-5.29 (m, 1H), 4.78-4.68 (m, 1H), 4.51-4.46 (m, 1H), 3.96 (s, 2H), 3.85-3.73 (m, 3H), 3.64-3.52 (m, 2H), 3.47 (s, 3H), 3.43-3.39 (m, 1H), 3.28 (s, 3H), 3.18-3.09 (m, 1H), 2.93-2.83 (m, 1H), 2.76 (s, 3H), 2.45 (d, J=8.4 Hz, 2H), 2.11 (s, 3H), 1.45 (s, 3H), 1.11 (s, 3H), 1.09 (s, 3H); MS for C33H45IN4O10S m/z: 817 (M+H)+.

reactant | 4-acetoxy-3,3-dimethylbutanoic anhydride | C(C)(=O)OCC(CC(=O)OC(CC(COC(C)=O)(C)C)=O)(C)C | C16H26O7
reactant | N—((S)-1-(((S)-1-(((2S,4S)-4-hydroxy-5-iodo-4-methyl-3-oxo-1-phenylpentan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)-2-methylthiazole-5-carboxamide | O[C@@](C([C@H](CC1=CC=CC=C1)NC([C@H](COC)NC([C@H](COC)NC(=O)C1=CN=C(S1)C)=O)=O)=O)(CI)C | C25H33IN4O7S
product | (2S,4S)-1-Iodo-4-((S)-3-methoxy-2-((S)-3-methoxy-2-(2-methylthiazole-5-carboxamido)propanamido)propanamido)-2-methyl-3-oxo-5-phenylpentan-2-yl 4-acetoxy-3,3-dimethylbutanoate | C(C)(=O)OCC(CC(=O)O[C@](CI)(C([C@H](CC1=CC=CC=C1)NC([C@H](COC)NC([C@H](COC)NC(=O)C1=CN=C(S1)C)=O)=O)=O)C)(C)C | C33H45IN4O10S
